US04956482
At room temperature, 1.5 g of 21-acetoxy-17-hydroxy-4,9(11)-pregnadiene-3,20-dione in 40 ml is agitated for 2 hours at room temperature with 15 ml of methanol 0.2N methanolic potassium hydroxide solution. The reaction mixture is introduced into ice water. The precipitated product is suctioned off, dissolved in methylene chloride, washed with water, and dried over sodium sulfate, thus obtaining 1.2 g of 17,21-dihydroxy-4,9(11) pregnadiene3,20-dione; mp 248.2° C.

reactant | 21-acetoxy-17-hydroxy-4,9(11)-pregnadiene-3,20-dione | 1.5 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O)O)=O | C23H30O5
reactant | methanol | 0.2N, 15 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 17,21-dihydroxy-4,9(11) pregnadiene3,20-dione | 1.2 g | O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C21H28O4
